US08119805B2
Stage (vi): 1-(4-Methoxy-2,3,6-trimethylphenylsulfonyl)-3-(2-(4-(2-(pyrrolidin-1-yl)ethyl)piperidin-1-ylsulfonyl)ethyl)piperidine (Example 39)
1-(2-(Piperidin-3-yl)ethylsulfonyl)-4-(2-(pyrrolidin-1-yl)ethyl)piperidine dihydrochloride (0.15 g, 0.35 mmol) was dissolved in tetrahydrofuran (10 ml) under an inert gas, and triethylamine (0.15 ml, 1.05 mmol) and 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride (0.1 g, 0.42 mmol) were added. The mixture was refluxed for 2 h, saturated sodium bicarbonate solution (10 ml) was then added and the phases were separated. The aqueous phase was extracted with ethyl acetate (20 ml) and the combined organic phases were washed with saturated sodium chloride solution (20 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel) with ethyl acetate/methanol/ammonia (25% aq) (300:100:1) and the hydrochloride was precipitated from an ethanol/ethereal solution with 1.2 eq of trimethylchlorosilane. Yield: 0.15 g (70%). MS, m/z=570.3 [MH]+

reactant | 1-(2-(Piperidin-3-yl)ethylsulfonyl)-4-(2-(pyrrolidin-1-yl)ethyl)piperidine dihydrochloride | 0.35 mmol, 0.15 g | Cl.Cl.N1CC(CCC1)CCS(=O)(=O)N1CCC(CC1)CCN1CCCC1
reactant | triethylamine | 1.05 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride | 0.42 mmol, 0.1 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)C | C10H13ClO3S
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
reactant | hydrochloride | Cl | ClH
reactant | trimethylchlorosilane | 1.2 eq | C[Si](Cl)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-Methoxy-2,3,6-trimethylphenylsulfonyl)-3-(2-(4-(2-(pyrrolidin-1-yl)ethyl)piperidin-1-ylsulfonyl)ethyl)piperidine | COC1=C(C(=C(C(=C1)C)S(=O)(=O)N1CC(CCC1)CCS(=O)(=O)N1CCC(CC1)CCN1CCCC1)C)C | C28H47N3O5S2
